US04518597
6-[4-(4-Methoxy-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-on
Prepared analogously to Example 1 from 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one and 4-methoxy-thiophenol.

reactant | 6-(4-chlorobutoxy)-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C14H18ClNO3
reactant | 4-methoxy-thiophenol | COC1=CC=C(C=C1)S | C7H8OS
product | 6-[4-(4-Methoxy-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-on | COC1=CC=C(C=C1)SCCCCOC=1C=CC2=C(C(OC(N2)=O)(C)C)C1 | C21H25NO4S
